US04009208
29. N,N'-Heptamethylenebis[4-(2-diethylaminoethoxy)benzamide]
The intermediate N,N'-heptamethylenebis(4-hydroxybenzamide) was prepared in several steps as follows: A mixture containing 354 g. of 4-hydroxybenzoic acid and 1000 g. of acetyl chloride was heated on a steam bath at reflux whereupon there separated 4-acetoxybenzoic acid. To the mixture was added 500 g. of thionyl chloride and the resulting reaction mixture was heated at reflux until the solid dissolved and the solution was then allowed to stand overnight. The excess thionyl chloride was then removed by distillation. Ethylene dichloride was next added and removed by distilling in vacuo on a steam bath to yield, as an orange oil, 4-acetoxybenzoyl chloride. A solution containing 317 g. of 4-acetoxybenzoyl chloride in 500 ml. of ethylene dichloride was added slowly over a period of about 1 hour with stirring to a cooled mixture containing 100 g. of 1,7-heptanediamine, 100 ml. of 10% aqueous potassium hydroxide solution and 1500 ml. of ethylene dichloride. The resulting precipitate was collected, dried and dissolved by heating with 10% aqueous potassium hydroxide solution. The alkaline solution was acidified with 6N hydrochloric acid and the resulting gummy precipitate was collected and dissolved in ethanol. The ethanol solution was dried over anhydrous magnesium sulfate and the solvent removed by distilling in vacuo. The remaining yellow oil, which turned to a glassy material on cooling, was treated with acetic anhydride and the resulting mixture heated on a steam bath with stirring for 4 hours. The hot solution was then allowed to cool to room temperature. The resulting precipitate was collected and recrystallized twice from acetonitrile, using decolorizing charcoal during the first recrystallization, and dried in a vacuum oven to yield 72.7 g. of N,N'-heptamethylenebis(4-acetoxybenzamide), m.p. 180°-181° C. A 49.5 g. portion of the N,N'-heptamethylenebis(4-acetoxybenzamide) was mixed with 400 ml. of 10% aqueous potassium hydroxide solution and the mixture heated for about 16 hours with stirring. The resulting solution was then allowed to cool and acidified with 3N hydrochloric acid. The resulting precipitate was collected and dried in a vacuum oven to yield 34.6 g. of N,N'-heptamethylenebis(4-hydroxybenzamide), m.p. 179°-181° C.

reactant | 4-acetoxybenzoyl chloride | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | 1,7-heptanediamine | C(CCCCCCN)N | C7H18N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | N,N'-heptamethylenebis(4-acetoxybenzamide) | C(C)(=O)OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)OC(C)=O)=O)C=C1 | C25H30N2O6
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | N,N'-heptamethylenebis(4-hydroxybenzamide) | OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)O)=O)C=C1 | C21H26N2O4
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Heptamethylenebis[4-(2-diethylaminoethoxy)benzamide] | C(C)N(CCOC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)OCCN(CC)CC)=O)C=C1)CC | C33H52N4O4
